US09353107B2
Step-iii: 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(3-(piperidin-4-ylmethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(3-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)benzyl)piperidine-1-carboxylate (60 mg, 0.101 mmol) was deprotected in HCl in methanol (5 ml). This afforded 25 mg (40.6% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.67 (s, 1H), 8.34 (s, 1H), 7.66 (s, 1H), 7.56-7.54 (m, 2H), 7.48-7.38 (m, 2H), 7.30-7.28 (d, 1H), 7.08-7.04 (m, 2H), 6.93-6.91 (d, 1H), 5.42 (s, 2H), 3.40-3.37 (d, 2H), 2.98-2.92 (t, 2H), 2.74-2.72 (d, 2H), 2.25-2.23 (d, 6H), 2.10-1.90 (m, 3H), 1.53-1.47 (m, 2H). MS: m/z=494.3 (M+1), HPLC: 95.16% in method A.

reactant | tert-butyl 4-(3-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)benzyl)piperidine-1-carboxylate | 0.101 mmol, 60 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C=3C=C(CC2CCN(CC2)C(=O)OC(C)(C)C)C=CC3)C)C=CC1 | C36H40FN5O2
solvent | HCl | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(3-(piperidin-4-ylmethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 25 mg, 40.6% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC(=CC=C3)CC3CCNCC3)C)C=CC1 | C31H32FN5
